US07632829B2
4-(2-Chloro-ethyl)-1-[(E)-3-(3-chloro-phenyl)-acryloyl]-[1,4]diazepan-5-one
To an ice-cooled solution of 2.13 g (3.50 mmol) of 1-[(E)-3-(3-chloro-phenyl)-acryloyl]-4-(2-hydroxy-ethyl)-[1,4]diazepan-5-one and 0.73 ml (5.25 mmol) of Et3N in 35 ml of dichloromethane were added 0.29 ml (3.68 mmol) of methanesulfonyl chloride under stirring within 5 min keeping the temperatue at 0° C. The reaction was stirred at room temperature for 1 h 45 min. Water was added and after 5 min, the reaction was then partitioned between ether and aqueous saturated NaHCO3. The water phase was extracted again with ether (2×), the organic phases were washed with aqueous 10% NaCl, dried (Na2SO4) and concentrated to yield 1.22 g (87%) of the title compound as yellow viscous oil. MS: 341.0 (MH+, 2Cl).

reactant | 1-[(E)-3-(3-chloro-phenyl)-acryloyl]-4-(2-hydroxy-ethyl)-[1,4]diazepan-5-one | 3.50 mmol, 2.13 g | ClC=1C=C(C=CC1)/C=C/C(=O)N1CCN(C(CC1)=O)CCO | C16H19ClN2O3
reactant | Et3N | 5.25 mmol, 0.73 ml | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.68 mmol, 0.29 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | 4-(2-Chloro-ethyl)-1-[(E)-3-(3-chloro-phenyl)-acryloyl]-[1,4]diazepan-5-one | 1.22 g, 87% | ClCCN1CCN(CCC1=O)C(\C=C\C1=CC(=CC=C1)Cl)=O | C16H18Cl2N2O2
